US08236792B2
(2S,4S)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (1.74 g, 4.73 mmol) in THF (24 mL) was added 4-fluorophenol (795 mg, 7.10 mmol), triphenylphosphine (1.86 g, 7.10 mmol), and DEAD (1.12 mL, 7.10 mmol). After 48 h, the mixture was diluted with 1 M NaOH and extracted with CH2Cl2 (3×). The combined organic layers were dried and concentrated. Purification by FCC provided the desired product (969 mg, 44%). MS (ESI): mass calcd. for C25H36FN3O4, 461.27; m/z found, 462.6 [M+H]+. 1H NMR (CDCl3): 6.98-6.89 (m, 2H), 6.79 (dd, J=8.5, 4.1 Hz, 2H), 4.81-4.74 (m, 1H), 4.71-4.51 (m, 1H), 4.03-3.90 (m, 1H), 3.79-3.59 (m, 2H), 3.59-3.41 (m, 3H), 2.88-2.73 (m, 1H), 2.68-2.29 (m, 5H), 2.18-2.06 (m, 1H), 2.04-1.94 (m, 2H), 1.93-1.70 (m, 4H), 1.69-1.53 (m, 2H), 1.46-1.40 (m, 9H).

reactant | (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.73 mmol, 1.74 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N1CCN(CCC1)C1CCC1 | C19H33N3O4
reactant | 4-fluorophenol | 7.10 mmol, 795 mg | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenylphosphine | 7.10 mmol, 1.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 7.10 mmol, 1.12 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1 M | [OH-].[Na+]
product | (2S,4S)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-(4-fluoro-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 969 mg, 44% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)F)C(=O)N1CCN(CCC1)C1CCC1 | C25H36FN3O4
